US04958026
N-[4-(2-Dimethylaminoethyl)-1H-indazol-7-yl]methanesulfonamide, Hydrochloride
At 0° C., 1.2 g of N,N-dimethyl-N-[2-(7-amino-1H-indazol-4-yl)ethyl]amine in 10 ml of dimethylformamide and 5 ml of tetrahydrofuran is combined with 0.91 ml of methanesulfonyl chloride The mixture is agitated for 2 hours at 0° C. and for 14 hours at room temperature. The product is chromatographed on silica gel with methanol/dichloromethane 1:1 and treated with ethereal hydrochloric acid, obtaining, after recrystallization from methanol/diethyl ether, 550 mg of N-[4-(2-dimethylamino-ethyl)-1H-indazol-7-yl]methanesulfonamide, hydrochloride, mp 203°-205° C.

reactant | N,N-dimethyl-N-[2-(7-amino-1H-indazol-4-yl)ethyl]amine | 1.2 g | CN(CCC1=C2C=NNC2=C(C=C1)N)C | C11H16N4
reactant | methanesulfonyl chloride | 0.91 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | N-[4-(2-Dimethylaminoethyl)-1H-indazol-7-yl]methanesulfonamide, Hydrochloride | Cl.CN(CCC1=C2C=NNC2=C(C=C1)NS(=O)(=O)C)C | InChI=1S/C12H18N4O2S.ClH/c1-16(2)7-6-9-4-5-11(15-19(3,17)18)12-10(9)8-13-14-12;/h4-5,8,15H,6-7H2,1-3H3,(H,13,14);1H
